US07795283B2
i) 1-tert-Butyl 4-methyl 4-methylpiperidine-1,4-dicarboxylate
To a solution of 1(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid (5.0 g, 20.55 mmol) in methanol (60 mL) and toluene (100 mL) was added a 2M solution of trimethylsilyldiazomethane (20 mL) in hexanes (the addition was accompanied by effervescence and a small exotherm). The resulting pale yellow solution was allowed to stir at ambient temperature for 1 hr. The solvent was removed under reduce pressure to give the title compound as a pale yellow oil (5.28 g 20.55 mmol, 100%); 1H NMR (CDCl3) δ 1.20 (s, 3H), 1.34-1.39 (m, 2H), 1.44 (s, 9H), 2.03-2.07 (m, 2H), 2.96-3.03 (m, 2H), 3.70 (s, 3H), 3.72-3.77 (m, 2H); MS m/e MH+. 257

reactant | 1(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid | 20.55 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C | C12H21NO4
reactant | trimethylsilyldiazomethane | 20 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 60 mL | CO | CH4O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-tert-Butyl 4-methyl 4-methylpiperidine-1,4-dicarboxylate | 20.55 mmol, 5.28 g, 100% | CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H23NO4
